US06242450B1
1-(3-(2,2-dimethyl-2,3-dihydrobenzofur-7-yloxy)prop-1-yl)-4-hydroxy-4-(quinolin-3-yl)piperidine
Beginning with 0.316 gm (1.3 mMol) 3-chloropropyl 2,2-dimethyl-2,3-dihydrobenzofur-7-yl ether and 0.300 gm (1.3 mMol) 4-hydroxy-4-(quinolin-3-yl)piperidine, 0.262 gm (46%) of the title compound were recovered as a white solid.

reactant | 3-chloropropyl 2,2-dimethyl-2,3-dihydrobenzofur-7-yl ether | 1.3 mMol, 0.316 gm | CC1(OC2=C(C1)C=CC=C2OCCCCl)C | C13H17ClO2
reactant | 4-hydroxy-4-(quinolin-3-yl)piperidine | 1.3 mMol, 0.300 gm | OC1(CCNCC1)C=1C=NC2=CC=CC=C2C1 | C14H16N2O
product | 1-(3-(2,2-dimethyl-2,3-dihydrobenzofur-7-yloxy)prop-1-yl)-4-hydroxy-4-(quinolin-3-yl)piperidine | 0.262 gm, 46% | CC1(OC2=C(C1)C=CC=C2OCCCN2CCC(CC2)(C=2C=NC1=CC=CC=C1C2)O)C | C27H32N2O3
